US06620829B2
A mixture of 2-cyano-2-(1-isopropyl-butyl)-succinic acid 4-tert-butyl ester 1-methyl ester (1.3 g, 4.2 mmol), NaCl (0.25 g, 4.2 mmol), and H2O (0.15 g, 8.3 mmol) in 25 mL of DMSO is warmed to 130° C. for 12 hours. The mixture is cooled to room temperature and diluted with 100 mL of brine. The organic products are extracted into Et2O (3×50 mL). The organic layers are combined and washed with 50 mL of H2O and 50 mL of brine. Drying over Na2SO4 and evaporation of the solvent gives 0.8 g (75% yield) of 3-cyano-4-isopropyl-heptanoic acid t-butyl ester as an oil.

reactant | 2-cyano-2-(1-isopropyl-butyl)-succinic acid 4-tert-butyl ester 1-methyl ester | 4.2 mmol, 1.3 g | COC(C(CC(=O)OC(C)(C)C)(C(CCC)C(C)C)C#N)=O | C17H29NO4
reactant | NaCl | 4.2 mmol, 0.25 g | [Na+].[Cl-]
reactant | H2O | 8.3 mmol, 0.15 g | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 3-cyano-4-isopropyl-heptanoic acid t-butyl ester | 0.8 g, 75% yield | C(C)(C)(C)OC(CC(C(CCC)C(C)C)C#N)=O | C15H27NO2
